US07304071B2
3-(2-Phenylamino-pyrimidin-4-yl)-benzoic acid
To a suspension of 3-(2-phenylamino-pyrimidin-4-yl)-benzonitrile (10 g, 36.7 mmol) in acetic acid (20 mL) was added concentrated hydrochloric acid (30 mL) and the suspension was heated at 100° C. overnight. The starting material completely dissolved and then a solid precipitated. The reaction mixture was filtered and precipitate was washed with ether and methanol to afford 9 g (84%) of the title compound.

reactant | 3-(2-phenylamino-pyrimidin-4-yl)-benzonitrile | 36.7 mmol, 10 g | C1(=CC=CC=C1)NC1=NC=CC(=N1)C=1C=C(C#N)C=CC1 | C17H12N4
reactant | hydrochloric acid | 30 mL | Cl | ClH
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Phenylamino-pyrimidin-4-yl)-benzoic acid | 9 g, 84% | C1(=CC=CC=C1)NC1=NC=CC(=N1)C=1C=C(C(=O)O)C=CC1 | C17H13N3O2
